US07951954B2
c) [2-(2,6-Dichloro-phenyl)-ethyl]-[3-(3-oxo-propyl)-benzyl]-carbamic acid tert-butyl ester
[2-(2,6-Dichloro-phenyl)-ethyl]-(3-iodo-benzyl)-carbamic acid tert-butyl ester (506 mg), tetrabutylammonium chloride (280 mg), sodium bicarbonate (210 mg), allyl alcohol (100 μL) and toluene (20 mL) were charged to a flask, followed by palladium acetate (10 mg) and the resultant mixture heated to 80° C., under nitrogen for 5 hours. On cooling, the reaction was filtered, the filtrate diluted with toluene and extracted sequentially, twice with water, once with brine, dried (magnesium sulfate) and evaporated. Purification on silica, eluting with a gradient of iso-hexane/ethyl acetate [4:1 to 2:1], gave the subtitle product as an oil (300 mg).

reactant | [2-(2,6-Dichloro-phenyl)-ethyl]-(3-iodo-benzyl)-carbamic acid tert-butyl ester | 506 mg | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)I)CCC1=C(C=CC=C1Cl)Cl)=O | C20H22Cl2INO2
reactant | sodium bicarbonate | 210 mg | C([O-])(O)=O.[Na+]
reactant | allyl alcohol | 100 μL | C(C=C)O | C3H6O
catalyst | tetrabutylammonium chloride | 280 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | [2-(2,6-Dichloro-phenyl)-ethyl]-[3-(3-oxo-propyl)-benzyl]-carbamic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)CCC=O)CCC1=C(C=CC=C1Cl)Cl)=O | C23H27Cl2NO3
